US05064837
Reflux a solution of 1-phenyl-8-fluoro-3-methyl-2(1H)-quinolone (0.54 g), N-bromosuccinimide (0.38 g) and benzyl peroxide (0.04 g) in dry benzene (11 mL) for 6 hours. Evaporate, partition between dichloromethane and water, dry and evaporate the organic phase, and dry the residue at room temperature and high vacuum to obtain 1-phenyl-8-fluoro-3-bromomethyl-2(1H)-quinolone, suitable for further reactions (see example 32).

reactant | 1-phenyl-8-fluoro-3-methyl-2(1H)-quinolone | 0.54 g | C1(=CC=CC=C1)N1C(C(=CC2=CC=CC(=C12)F)C)=O | C16H12FNO
reactant | N-bromosuccinimide | 0.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzyl peroxide | 0.04 g | C(C1=CC=CC=C1)OOCC1=CC=CC=C1 | C14H14O2
solvent | benzene | 11 mL | C1=CC=CC=C1 | C6H6
product | 1-phenyl-8-fluoro-3-bromomethyl-2(1H)-quinolone | C1(=CC=CC=C1)N1C(C(=CC2=CC=CC(=C12)F)CBr)=O | C16H11BrFNO
